US07601716B2
(4-Pyrrolidin-1-yl-piperidin-1-yl)-(4-{1-[2-(trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone
4-{1-[2-(Trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid (98 mg) was reacted with 4-(1-pyrrolidinyl)piperidine as in General Procedure 8 to give the title compound as a yellow solid (65% yield). LCMS: m/z=565.98 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.53 (2H, bs), 2.88 (7H, m), 2.27 (1H, m), 2.57 (4H, s), 2.98 (2H, m), 3.46 (2H, m), 3.63 (2H, m), 3.81 (1H, bs), 4.55 (2H, s), 5.21 (1H, s), 6.71 (1H, s), 7.33 (8H, m), 7.71 (1H, s).

reactant | 4-{1-[2-(Trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | 98 mg | FC(OC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C=CC=C1)(F)F | C22H18F3N3O3
reactant | 4-(1-pyrrolidinyl)piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | (4-Pyrrolidin-1-yl-piperidin-1-yl)-(4-{1-[2-(trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone | 65% yield | N1(CCCC1)C1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=CC2=C(NCCN2CC2=C(C=CC=C2)OC(F)(F)F)N=C1 | C31H34F3N5O2
